US06444709B1
a) 5-(3-Bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)pentyl Acetate
A solution of 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol (10 g, 0.35 mol), 5-bromopentyl acetate (8.15 g) and potassium carbonate (33.6 g) in methyl ethyl ketone (200 ml) is refluxed for 2 hours. The reaction medium is treated with water and ethyl acetate. After separation of the phases by settling, the organic phase is washed twice with water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is purified by flash chromatography on a column of silica.

reactant | 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol | 0.35 mol, 10 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C14H19BrO
reactant | 5-bromopentyl acetate | 8.15 g | C(C)(=O)OCCCCCBr | C7H13BrO2
reactant | potassium carbonate | 33.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-Bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)pentyl Acetate | C(C)(=O)OCCCCCOC1=CC=2C(CCC(C2C=C1Br)(C)C)(C)C | C21H31BrO3
